US05607939
1-Benzoyl-2-(2-phenylethyl)-2-piperidinecarbonitrile
To 200 ml of tetrahydrofuran containing 140 mmol lithium diisopropylamide was added 15 g of solid 1-benzoyl-2-piperidinecarbonitrile at -78° C. The mixture was stirred for 30 minutes, after which 100 ml of tetrahydrofuran containing 33.2 g of phenethyl iodide was added dropwise at -78° C. After completion of dropwise addition, the temperature of the reaction mixture was gradually increased to 0° C. Then, water was added and the organic layer was separated. The aqueous layer was further extracted with ethyl acetate. The pooled organic layer was dried over anhydrous magnesium sulfate and filtered and the solvent was then distilled off. The residue was purified by silica gel column chromatography using ethyl acetate-hexane (1:2) as the eluent. The solution containing the desired compound was distilled under reduced pressure and the resulting solid was recrystallized from ethyl acetate-hexane to provide 17.3 g of colorless crystals.

reactant | tetrahydrofuran | 140 mmol, 200 ml | O1CCCC1 | C4H8O
reactant | 1-benzoyl-2-piperidinecarbonitrile | C(C1=CC=CC=C1)(=O)N1C(CCCC1)C#N | C13H14N2O
reactant | tetrahydrofuran | 100 ml, 33.2 g | O1CCCC1 | C4H8O
reactant | phenethyl iodide | C(CC1=CC=CC=C1)I | C8H9I
solvent | water | O | H2O
product | 1-Benzoyl-2-(2-phenylethyl)-2-piperidinecarbonitrile | 17.3 g | C(C1=CC=CC=C1)(=O)N1C(CCCC1)(C#N)CCC1=CC=CC=C1 | C21H22N2O
